US07838547B2
4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(1-methylhexahydro-pyrrolo[3,4-b]pyrrol-5-yl)phenyl]amide
4-(1-Methylhexahydropyrrolo[3,4-b]pyrrol-5-yl)phenylamine was reacted by method A initially with carbonyldiimidazole and then with 4-(4-chlorophenyl)piperidine. The product with the molecular weight of 439.01 (C25H31ClN4O); MS (ESI): 439 (M+H+) was obtained in this way.

reactant | 4-(1-Methylhexahydropyrrolo[3,4-b]pyrrol-5-yl)phenylamine | CN1C2C(CC1)CN(C2)C2=CC=C(C=C2)N | C13H19N3
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | 4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(1-methylhexahydro-pyrrolo[3,4-b]pyrrol-5-yl)phenyl]amide | CN1C2C(CC1)CN(C2)C2=CC=C(C=C2)NC(=O)N2CCC(CC2)C2=CC=C(C=C2)Cl | C25H31ClN4O
